US05578733
In 29 mL of methylene chloride was dissolved 10.00 g of (±)-1-(cyclohexyloxycarbonyloxy)ethyl 2-ethoxy-1-[2'-(N-triphenylmethyl-1H-tetrazol-5-yl)biphenyl-4-yl]methylbenzimidazole-7-carboxylate followed by addition of 23 mL of methanol and cooling to 5° C. Then, 6 mL of methanol containing 0.53 g of hydrogen chloride as dissolved was added dropwise at 5° C. over a period of 15 minutes. The mixture was further stirred at 5° C. for 3.5 hours, at the end of which time 19 mL of ethyl acetate and 19 mL of water were added. The mixture was adjusted to pH 6.3 with a saturated aqueous solution of sodium hydrogen carbonate and, then, 10 mL of ethyl acetate and 10 mL of 20% NaCl-H2O were added. The aqueous layer was separated and extracted with 20 mL of ethyl acetate. The ethyl acetate layers were combined and redistributed into 20% NaCl and 38 mL of ethyl acetate. The organic layer was separated and concentrated and the residue was diluted with ethanol and reconcentrated. To the residue was added 20 mL of acetone and the mixture was stirred at room temperature for 3 hours for sufficient crystallization. Thereafter, 90 mL of hexane was added and the mixture was further stirred at room temperature for 1 hour and, then, under ice-cooling for 2 hours. The resulting crystals were collected by filtration and washed with 25 mL of acetone-hexane (1:9). The crystals were dried under reduced pressure to provide 6.90 g of (±)-1-(cyclohexyloxycarbonyloxy)ethyl 2-ethoxy-1-[2'-(1H-tetrazol-5-yl) biphenyl-4-yl]methylbenzimidazole-7-carboxylate (yield 92%).

reactant | (±)-1-(cyclohexyloxycarbonyloxy)ethyl 2-ethoxy-1-[2'-(N-triphenylmethyl-1H-tetrazol-5-yl)biphenyl-4-yl]methylbenzimidazole-7-carboxylate | 10.00 g | C(C)OC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=CC=C2)C(=O)OC(C)OC(=O)OC2CCCCC2 | C52H48N6O6
reactant | hydrogen chloride | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | NaCl H2O | 10 mL | [Na+].[Cl-].O
solvent | methylene chloride | 29 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 19 mL | O | H2O
solvent | ethyl acetate | 19 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 6 mL, 0.53 g | CO | CH4O
solvent | methanol | 23 mL | CO | CH4O
product | (±)-1-(cyclohexyloxycarbonyloxy)ethyl 2-ethoxy-1-[2'-(1H-tetrazol-5-yl) biphenyl-4-yl]methylbenzimidazole-7-carboxylate | 6.90 g, yield 92% | C(C)OC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=CC=C2)C(=O)OC(C)OC(=O)OC2CCCCC2 | C33H34N6O6
